US05247042
(1) 4-Triflyltoluene
Dry toluene and 13.3 g of anhydrous AlCl 0.11 mole) are cooled to 0° C. To this mixture is added dropwise 28.2 g (0.1 mole) of trifluoromethanesulfonic anhydride in dry toluene. The reaction is allowed to warm to room temperature and is stirred for 16 hours. The product solution is poured into water, and the mixture is extracted with ether. The ether layer is washed with water and saturated sodium chloride solution and dried over 4A sieves. Ether and excess toluene are removed in vacuo, and the product is purified by distillation.

reactant | trifluoromethanesulfonic anhydride | 0.1 mole, 28.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Triflyltoluene | S(=O)(=O)(C(F)(F)F)C1=CC=C(C=C1)C | C8H7F3O2S
